US06716851B2
4-(4,5-Dimethoxy-2-methylanilino)-2-(3-pyridinyl)-6-(trifluoromethyl)pyrimidine
The title compound was prepared from a mixture of 4-chloro-2-(3-pyridinyl)-6-(trifluoromethyl)pyrimidine (50 mg, 0.193 mmol) and 4,5-dimethoxy-2-methylaniline (48 mg, 0.290 mmol) similar to Example 117 and isolated as a red solid (8 mg, 11%). 1H NMR (CDCl3): 9.69 (s, 1H), 8.74-8.68 (m, 2H), 7.56 (s, 1H), 7.43-7.39 (m, 1H), 6.84 (s, 1H), 6.83 (s, 1H), 6.46 (s, 1H), 3.94 (s, 3H), 3.86 (s, 3H), 2.23 (s, 3H).

reactant | 4-chloro-2-(3-pyridinyl)-6-(trifluoromethyl)pyrimidine | 0.193 mmol, 50 mg | ClC1=NC(=NC(=C1)C(F)(F)F)C=1C=NC=CC1 | C10H5ClF3N3
reactant | 4,5-dimethoxy-2-methylaniline | 0.290 mmol, 48 mg | COC1=CC(=C(N)C=C1OC)C | C9H13NO2
product | 4-(4,5-Dimethoxy-2-methylanilino)-2-(3-pyridinyl)-6-(trifluoromethyl)pyrimidine | COC1=CC(=C(NC2=NC(=NC(=C2)C(F)(F)F)C=2C=NC=CC2)C=C1OC)C | C19H17F3N4O2
